US07365222B2
Stage 3: 2-(bicyclo[3.1.0]hex-1-yl)acrylic Acid Methyl Ester (BCHAM)
1.4 ml (10 mmol) diisopropylamine and 65 ml (100 mmol) 1.55 M n-BuLi solution in hexane were added under argon at −78° C. to a well-stirred suspension of 37.5 g (105 mmol) methyltriphenylphosphonium bromide in 400 ml anhydrous tetrahydrofuran (THF). The reaction mixture was allowed to heat to room temperature, cooled again and then at −78° C. a solution of 16.8 g (100 mmol) 2-(bicyclo-[3.1.0]hex-1-yl)-2-oxoacetic acid methyl ester in 20 ml THF was added dropwise so that the temperature did not exceed −50° C. The solution was then stirred for 10 hours at room temperature and acidified with 5% sulphuric acid. After the addition of 50 ml saturated sodium chloride solution the organic phase was separated off, the aqueous phase extracted with diethyl ether and the combined organic phase washed with saturated sodium chloride solution. 10 mg 2,6-di-t-butyl-p-cresol (BHT) were added for stabilizing, then the solvent was distilled off and the residue purified by column chromatography (pentane/diethyl ether 20:1). 15.7 g (85% yield) of BCHAM was obtained as colourless liquid.

reactant | diisopropylamine | 10 mmol, 1.4 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 100 mmol, 1.55 M, 65 ml | [Li]CCCC
reactant | 2-(bicyclo-[3.1.0]hex-1-yl)-2-oxoacetic acid methyl ester | 100 mmol, 16.8 g | COC(C(=O)C12CCCC2C1)=O | C9H12O3
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium chloride | 50 ml | [Cl-].[Na+]
solvent | hexane | CCCCCC | C6H14
catalyst | methyltriphenylphosphonium bromide | 105 mmol, 37.5 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | THF | 20 ml | O1CCCC1 | C4H8O
product | 2-(bicyclo[3.1.0]hex-1-yl)acrylic Acid Methyl Ester | 85% yield | COC(C(=C)C12CCCC2C1)=O | C10H14O2
